US09375010B2
To a solution of (2Z)-2-{[(6-bromopyridin-2-yl)methoxy]imino}-N-hydroxy-N-methyl-2-phenylethanimidamide (4.0 g, 11 mmol, 1 eq.) in acetonitrile (100 ml), was added 1,1′-carbonyldiimidazole (2.14 g, 13.2 mmol, 1.2 eq.). After stirring at 80° C. for 1 hours and 2 hours at room temperature, the reaction was diluted with EtOAc (500 mL), subsequently washed with H2O (500 mL) and brine. After separation, the organic phase was dried over MgSO4 then concentrated. The residue was purified by chromatography on silica gel to give 3-[(Z)-{[(6-bromopyridin-2-yl)methoxy]imino}(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one (4.40 g, 95% yield).

reactant | (2Z)-2-{[(6-bromopyridin-2-yl)methoxy]imino}-N-hydroxy-N-methyl-2-phenylethanimidamide | 11 mmol, 4.0 g, 1 eq. | BrC1=CC=CC(=N1)CO\N=C(/C(N(C)O)=N)\C1=CC=CC=C1 | C15H15BrN4O2
reactant | 1,1′-carbonyldiimidazole | 13.2 mmol, 2.14 g, 1.2 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 3-[(Z)-{[(6-bromopyridin-2-yl)methoxy]imino}(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one | 4.40 g, 95% yield | BrC1=CC=CC(=N1)CO\N=C(/C=1N(OC(N1)=O)C)\C1=CC=CC=C1 | C16H13BrN4O3
